US04310532
N-(4-pyridylmethyl)-p-methylbenzamide was synthesized from p-toluoyl chloride and 4-pryidylmethylamine in the same manner as employed in Example 1 above. The pure product has a melting point 142.7° C., yield of 87.7%. The intermediate product was converted to pure N-(4-piperidinylmethyl)-p-methylbenzamide as previously described (Example 1); melting point 226.6° C., yield 70.7%, and evaluated according to Tables I, II, and III.

reactant | p-toluoyl chloride | C1(=CC=C(C=C1)C(=O)Cl)C | C8H7ClO
reactant | N-(4-piperidinylmethyl)-p-methylbenzamide | N1CCC(CC1)CNC(C1=CC=C(C=C1)C)=O | C14H20N2O
product | N-(4-pyridylmethyl)-p-methylbenzamide | yield of 87.7% | N1=CC=C(C=C1)CNC(C1=CC=C(C=C1)C)=O | C14H14N2O
